2168-06-07 07:02:00 Physician Resident Progress Note
Chief Complaint: Transfer to CCU for hypotension
   24 Hour Events: : Mr. [**Known lastname 6286**] is a 79M w/ hx of critical AS (valve area
   0.5cm2), sCHF, alcoholic cirrhosis, DM, recently admitted w/ sCHF
   exacerbation and worsening of AS, who p/w persistent severe DOE  on
   [**2168-5-30**]. Please see admit note and team progress notes for more details.
   Briefly, DOE was evaluated by the team with TTE and was found to be
   likely due to critical AS with a valve area of 0.5 and gradient of 60.
   Plan was for patient to undergo aortic valvuloplasty today. Patient
   thought to be slightly overloaded due to othropnea so was given lasix
   20 mg IVx1. Patient put out 250 cc and was found on routine vitals
   check to have BP 81/52, temp 97.1, HR 103, RR 30, and 95% 4L. Patient
   triggered for hypotension as his SBP normally runs in the 110s.
   Patient as given 650 cc of NS. UA with positive Ntr, small LE, and 12
   wbc. CBC shows new leukocytosis. Started empirically on Vanco/Zosyn.
   Also of note patient has had guiac positive stools. Transferred to CCU
   for further management of critical AS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient denies CP, dizziness, SOB, abd. Pain, palpitations, orthopnea,
   edema, PND
   Flowsheet Data as of  [**2168-6-7**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 96 (96 - 98) bpm
   BP: 91/53(62) {91/53(62) - 91/53(62)} mmHg
   RR: 21 (21 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: ill appearing, somnolent, tachypneic, originally A and OX1 but now
   A and OX3
   HEENT: no appreciable JVD while lying flat (for hypotension)
   CV: Irregular, tachycardic, [**4-1**] harsh late peaking SEM, no rubs or
   gallops
   Pulm: CTA
   Abdomen: +BS, soft, NT, ND, no organomealy
   Exts: WWP, no c/c/e, thready DP and PT pulses but palpable
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan:
   79M w/ hx of critical AS (valve area 0.5cm2), sCHF, alcoholic
   cirrhosis, DM, recently admitted w/ sCHF exacerbation and worsening of
   AS, who no p/w persistent severe DOE due to critical AS now awaiting
   valvuloplasty.
   # Critical AS: Recent echo showed valve area 0.5mm2, pt's current
   symptoms of severe DOE due to AS. Awaiting valvulplasty later on today.
   [**Month (only) 8**] have been overdiuresed yesterday leading to poor forward flow and
   subsequent hypotension. Although patient only put out 300 cc to lasix,
   patient did have profuse diarrhea which may have also led to volume
   shifts. BP has responded to small fluid bolus of 650 cc on the floor.
   -  Plan to hold off on further fluids. Goal MAP greater than 55.
   Peripheral dopamine if needed. Will hold on further fluids for now.
   - Plan for Valvuloplasty today
   # New onset A fib: Noted on admission. Prior cardioversion [**6-3**]. Chads
   2 is 4. Was on heparin gtt on the floor but will d/c now given hct
   drop. Appers in a fib right now on tele, but rate controlled less than
   100.
   -Hold heparin gtt
   -active t and s
   - 12 lead EKG now
   - Continue dofetelide
   # Leukocytosis: Given diarrhea, Cdiff in differential. UA points to
   possible urinary source. Patient had previously reported a cough but
   may have been due to over hydration. Patient does meet sepsis criteria
   with positive UA, in addition to low grade fever, leukocytosis,
   increase RR, and
   - Start empiric Vanco/Zosyn
   .
   .
   # Critical AS- Recent echo showed valve area 0.5mm2, pt's current
   symptoms of severe DOE due to AS. Now that pt euvolemic and sCHF
   contributing provides more support. Pt does have new Afib on EKG, which
   may be contributing to his SOB/DOE, but less likely since at bedrest pt
   does not have any sympotms.
   - avoid NTG, preload reducers
   - cardiac cath in AM to further evaluate stenosis
   - Liver consult to determine operative risk w/hx of cirrhosis
   - cath will provide data on whether to proceed with valvuloplasty vs.
   AVR
   .
   # New Afib- on EKG pt irregular irregular, rate controlled.
   - starting on hep gtt
   - hold off on bb as rate controlled
   .
   # sCHF, chronic- EF 40%, will hold off on diuresis tonight as
   euvolemic, will restart home dose of lasix 40mg daily as stable on this
   regimen, and would want to prevent volume overload in this patient
   - cont Lasix 20mg qday, start in AM
   .
   # Hyponatremia- previous admission FeNa 1.8%, and thought likely
   secondary to cirhhosis.
   - fluid restrict to 1.5L /day
   .
   # Cirrhosis- First noted during ccy, Likely [**2-29**] EtOH use. Pt reports
   that he stopped drinking approx 1 year ago.documented on MRCP as well
   as CT abdomen. Pt hepatitis panel negative for Hep A,B,C. Pt had liver
   f/u as outpt for possible endoscopy and pre-op Child's classification
   and bleeding risk. Pt did have thombocytopenia and elevated INR on last
   admission (peaked plt 106, and INR 1.6), and started on Vit. K.
   Currently Albumin 3.4, Cr, Tbili normal.
   - continue Vitamin K 5mg daily
   - Liver consult in AM as above
   - checking coags
   .
   # DM2 - continue glipizide, starting ISS
   .
   # HTN - not on any hypertensives, low-dose ACEi and spironolactone d/c
   on last admission, likely due to cirhhosis. Pt also had hypotension
   last admission pt underwent CTA which was negative for PE.
   .
   # h/o diarrehea- C.diff negative x3 last admission, started on lomotil
   aferwards.
   - hold lomotil for now
   .
   FEN: Cardiac diet, NPO p MN for cath, No IVF overnight
   ACCESS: PIV
   PROPHYLAXIS: hep gtt, pain
   Code: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-6-7**] 06:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-06-12 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 250cc NS bolus x3 - For low MAP (40s), then poor UOP (<10cc over 5
   hours, despite boluses). Minimal POs, creatinine rising 1.0 > 1.9 > 2.2
   > 2.9, BUN 44 > 61 > 54. Given peripheral vasoconstrictive property of
   Neo, switched to Levophed; wanted to use dopamine, but he did not
   tolerate well last Tuesday; still no urine output at 9:00PM; gave 500cc
   NS bolus x1 without any urine output by 12AM; gave Lasix 20mg IV x1 >
   60cc UOP
   - Guaiac positive stools, nonmelanotic, loose; T&S (given that he's on
   heparin gtt, Plavix, and ASA), C difficile toxin sent
   - Slight oozing at groin site; has bruising; no bruit appreciated; has
   small underlying hematoma; thigh is soft, nontender; hematocrit
   38.1>35.1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2168-6-11**] 05:30 PM
   Infusions:
   Heparin Sodium - 300 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-6-11**] 12:35 PM
   Furosemide (Lasix) - [**2168-6-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-6-12**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 102 (80 - 102) bpm
   BP: 106/52(66) {71/33(45) - 109/75(70)} mmHg
   RR: 19 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,822 mL
                                                                    247 mL
   PO:
             TF:
   IVF:
                                                                  2,822 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                     80 mL
   Urine:
                                                                    330 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,492 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Gen: Ill appearing, alert and oriented, tangential
   HEENT: No appreciable JVD while lying flat
   CV:  Regular rhythm, [**4-1**] harsh late peaking SEM, no rubs or gallops
   Pulm: CTA bilaterally
   Abdomen: +BS, soft, NT, ND, no organomegaly
   Exts:  WWP, 1+ DP bilaterally, Right groin dressing c/d/I, no palpable
   thrill and no audible bruit; no lower extremity edema
   Labs / Radiology
   89 K/uL
   13.2 g/dL
   107 mg/dL
   2.9 mg/dL
   17 mEq/L
   4.2 mEq/L
   54 mg/dL
   101 mEq/L
   131 mEq/L
   37.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2168-6-9**]  05:51 AM
                             [**2168-6-9**]  02:58 PM
                             [**2168-6-9**]  05:07 PM
                             [**2168-6-10**]  06:09 AM
                             [**2168-6-10**]  12:08 PM
                             [**2168-6-11**]  04:49 AM
                             [**2168-6-11**]  03:15 PM
                             [**2168-6-11**]  03:37 PM
                             [**2168-6-11**]  11:28 PM
                             [**2168-6-12**]  05:00 AM
   WBC
   11.4
   8.4
   11.6
   9.5
   10.0
   Hct
   39.1
   36.6
   38.1
   35.1
   37.9
   Plt
   88
   69
   93
   80
   89
   Cr
   1.3
   1.1
   1.0
   1.9
   2.2
   2.7
   2.9
   TCO2
   21
   21
   Glucose
   122
   138
   143
   84
   185
   106
   107
   Other labs: PT / PTT / INR:18.9/69.1/1.7, CK / CKMB / Troponin-T:40//,
   ALT / AST:50/64, Alk Phos / T Bili:57/4.8, Differential-Neuts:79.7 %,
   Lymph:12.0 %, Mono:7.7 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, LDH:295
   IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   79M with critical AS (valve area 0.5cm2), sCHF (EF 40%), alcoholic
   cirrhosis, DM, recently admitted w/ sCHF exacerbation and worsening of
   AS, later developed MSSA sepsis and now s/p aortic valvuloplasty and
   PTCA to RCA on [**2168-6-9**].
   # Hypotension:  Several contributors, including poor ejection fraction,
   aortic stenosis, bactermia/sepsis. Patient still with elevated PCWP. On
   exam, does not appear volume up, suggesting that rather than diuresis,
   patient may need assistance with ionotropy. In fact, given exam and low
   urine sodium, patient appears dehydrated (despite net positive fluid
   balance for hospital course
 does not take into account insensible
   losses). Neosynephrine was increased overnight.
   -          Decrease neosynephrine as tolerated; goal MAP>55
   -          Small fluid bolus (NS 250cc)
   # Critical AS: AS critical by valve area. Now s/p valvuloplasty [**6-9**].
   # Acute renal failure:  Creatinine increased from 1.0 to 1.9 within
   past 24 hours. Previous labs have shown a prerenal etiology. Given time
   course, likely major contributor for acute rise here contrast-induced
   nephropathy. As above, patient still does appear dry on exam, and has
   limited PO intake.
   -          Trend creatinine
   -          Urine lytes
   -          250cc bolus, as above
   -          Goal I/O net even to slightly positive
   # Sepsis:  MSSA bacteremia. Surveillance cultures no growth to date.
   Last positive blood culture was [**2168-6-7**]. TTE negative for vegetations.
   No obvious sources for bacteremia.
   -          Continue Nafcillin (GPC coverage started [**2168-6-7**]), day 5 of
   14
   -          Wean phenylephrine as tolerated
   # CAD: BMS x2 to RCA [**2168-6-9**]. Plavix loaded with 300mg PO
   -          Continue Plavix for at least 3 months
   -          Continue simvastatin, ASA
   -          Beta-blocker, ACE inhibitor held given low BP
   # PAF: Noted on admission. Cardioversion [**6-3**]. CHADS2 = 4.
   -          Continue dofetelide, renally dosed
   -          Continue heparin gtt
   -          Will need to discuss with patient his preference on starting
   heparin
   -          Continue aspirin
   # Cirrhosis/ guaiac positive stools:  Documented on MRCP as well as CT
   abdomen. Likely [**2-29**] EtOH use. Last drink approx 1 year ago. Hepatitis
   panel negative for Hep A,B,C
   -          Continue PPI for ?gastritis
   # Nutrition:  Patient with poor PO intake. Concern for aspiration,
   which was confirmed with recent speech and swallow evaluation.
   -          Modified diet
   -          Encourage PO intake, Ensure shakes
   -          Speech therapy recs
   # Anxiety/Pain:  No complaints at this time. Avoiding benzodiazepenes
   given associated sedation with small doses recently.
   # Emphysema:  Continue Fluticasone-Salmeterol, tiotropium, ipratropium
   as needed
   # DM:  ISS
   # FEN:  Cardiac, diabetic diet, with modifications; replete lytes as
   needed
   # Access: PICC
   # Prophylaxis:  On heparin drip, as above; PPI IV; bowel regimen, as
   needed
   # Code- DNR/I
   # Communication
 [**Known firstname 67**] [**Last Name (NamePattern1) 3033**] (first cousin [**Name (NI) 225**] [**Telephone/Fax (1) 6299**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-6-10**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   CCU Attending note.
   I have reviewed the progress note by Dr. [**Last Name (STitle) **] for [**2168-6-12**].   I
   agree with the 24 hours events documented with the note.  I was present
   during the physical examination and agree with the documented
   findings.   The assessment and plan outline our strategy over the next
   24 hours.  Today we discussed the degree of supportive efforts that Mr.
   [**Known lastname 6286**] would prefer in the event of the need for dialysis (temporally)
   for the acute renal failure.   We will also continue volume repletion
   and dobutamine-dopamine combination for chronotropic and ionotropic
   support in lieu of Levophed.  We will discuss further options with the
   patient and his family related to his rehabilitation when his condition
   stabilizes.   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD [**Telephone/Fax (1) 6129**]